US08877741B2
5-Bromo-2-cyclopropylmethoxy-pyridine
0.49 g (6.82 mmol) cyclopropane methanol in 10 mL THF are charged with 0.42 g (11.4 mmol) NaH and the reaction mixture is stirred at r.t. for 20 min. Then 1.00 g (5.68 mmol) 5-bromo-2-fluoropyridine are added and the mixture is stirred at r.t. over night. The reaction is quenched by the addition of water and extracted with EtOAc. The organic layers are combined, dried over MgSO4, filtered and the solvent is removed in vacuo. The crude product is purified by HPLC (MeOH/H2O/FA).

reactant | cyclopropane methanol | 6.82 mmol, 0.49 g | C1(CC1)CO | C4H8O
reactant | NaH | 11.4 mmol, 0.42 g | [H-].[Na+]
reactant | 5-bromo-2-fluoropyridine | 5.68 mmol, 1.00 g | BrC=1C=CC(=NC1)F | C5H3BrFN
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-Bromo-2-cyclopropylmethoxy-pyridine | BrC=1C=CC(=NC1)OCC1CC1 | C9H10BrNO
